US06867213B2
1) (2S)-2-(Adamantan-1-ylmethoxycarbonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoylamino)propionic Acid Isopropyl Ester Acetic Acid Salt
17.5 g of (2S)-2-(adamantan-1-ylmethoxycarbonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoylamino)propionic acid were dissolved in 670 ml of isopropanol. 1.8 ml of concentrated sulfuric acid were added and the reaction mixture was refluxed for 24 h. The solvent was distilled off in vacuo, the residue was brought to pH 7 with an aqueous solution of sodium chloride and solid sodium bicarbonate and the mixture was extracted four times with ethyl acetate. The combined organic phases were dried over magnesium sulfate, the ethyl acetate was distilled off, the residue was treated with 20 ml of glacial acetic acid and lyophilized.

reactant | (2S)-2-(adamantan-1-ylmethoxycarbonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoylamino)propionic acid | 17.5 g | C12(CC3CC(CC(C1)C3)C2)COC(=O)N[C@H](C(=O)O)CNC(C2=CC=C(C=C2)CCC(NC=2NCCCN2)=O)=O | C29H39N5O6
reactant | sulfuric acid | 1.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 670 ml | C(C)(C)O | C3H8O
product | (2S)-2-(Adamantan-1-ylmethoxycarbonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoylamino)propionic Acid Isopropyl Ester Acetic Acid Salt | C(C)(=O)O.C(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NC(=O)OCC12CC3CC(CC(C1)C3)C2)=O | InChI=1S/C32H45N5O6.C2H4O2/c1-20(2)43-29(40)26(36-31(41)42-19-32-15-22-12-23(16-32)14-24(13-22)17-32)18-35-28(39)25-7-4-21(5-8-25)6-9-27(38)37-30-33-10-3-11-34-30;1-2(3)4/h4-5,7-8,20,22-24,26H,3,6,9-19H2,1-2H3,(H,35,39)(H,36,41)(H2,33,34,37,38);1H3,(H,3,4)/t22?,23?,24?,26-,32?;/m0./s1
